US08217177B2
1-(6-(3-methylisothiazol-5-yl)pyridazin-3-yl)hydrazine
A mixture of 3-chloro-6-(3-methylisothiazol-5-yl)pyridazine (0.85 g, 4.0 mmol) and anhydrous hydrazine (3.8 ml, 120 mmol) in 30 mL of sec-BuOH was heated at 130° C. for 3 hours. The mixture was cooled to 23° C. and diluted with 5 mL of water. The solid was collected by filtration and was washed by 2 mL of water to produce a yellow solid. MS (ESI pos. ion) m/z: 208 (MH+). Calc'd exact mass for C8H6ClN3S: 207.

reactant | 3-chloro-6-(3-methylisothiazol-5-yl)pyridazine | 4.0 mmol, 0.85 g | ClC=1N=NC(=CC1)C1=CC(=NS1)C | C8H6ClN3S
reactant | hydrazine | 120 mmol, 3.8 ml | NN | H4N2
solvent | sec-BuOH | 30 mL | C(C)(CC)O | C4H10O
solvent | water | 5 mL | O | H2O
product | 1-(6-(3-methylisothiazol-5-yl)pyridazin-3-yl)hydrazine | CC1=NSC(=C1)C1=CC=C(N=N1)NN | C8H9N5S
